US08975254B2
d) N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-((tetrahydro-2H-pyran-2-yl)oxy)propyl)isoxazole-3-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 5-(2-(tetrahydro-2H-pyran-2-yloxy)propyl)isoxazole-3-carboxylic acid (0.392 g, 1.534 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.2 g, 0.767 mmol). The product was purified by reverse phase flash chromatography. LC-MS: [M+1]=498.97.

reactant | 5-(2-(tetrahydro-2H-pyran-2-yloxy)propyl)isoxazole-3-carboxylic acid | 1.534 mmol, 0.392 g | O1C(CCCC1)OC(CC1=CC(=NO1)C(=O)O)C | C12H17NO5
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-((tetrahydro-2H-pyran-2-yl)oxy)propyl)isoxazole-3-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CC(C)OC1OCCCC1 | C25H28ClN5O4
